US05840732
ii) Synthesis of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 2.27 g (5.0 mmol) of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.5 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.29 g (100%, brown oily substance) of the desired product.

reactant | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 5.0 mmol, 2.27 g | C1(=CC=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H23N3O2S2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C23H23N3O2S2.ClH/c27-22-19(11-6-10-18-8-2-1-3-9-18)30-23(28)26(22)15-4-5-17-29-21-13-7-12-20-24-14-16-25(20)21;/h1-3,7-9,11-14,16H,4-6,10,15,17H2;1H
